US08802697B2
Synthesis of ethyl 6-chloro-4-(methylamino)nicotinate
To a solution of ethyl 4,6-dichloronicotinate (5.0 g, 22.7 mmol) in acetonitrile (50 mL) was added methylamine hydrochloride salt (1.84 g, 27.2 mmol) and diisopropylethylamine (14.6 g, 113.6 mmol), and the reaction mixture was heated at 70° C. overnight. LCMS showed the reaction was completed. The reaction was cooled to RT, quenched with water (50 mL) and extracted with ethyl acetate (3×100 mL). The organic layers were separated, combined, washed with water (50 mL) and brine (100 mL), dried over sodium sulfate, filtered, and concentrated to afford the title compound (4.7 g, crude), which was directly used in the next step without further purification. MS (ES+) C9H11ClN2O2 requires: 214, 216. found: 215, 217 [M+H]+.

reactant | ethyl 4,6-dichloronicotinate | 22.7 mmol, 5.0 g | ClC1=CC(=NC=C1C(=O)OCC)Cl | C8H7Cl2NO2
reactant | methylamine hydrochloride salt | 27.2 mmol, 1.84 g | Cl.CN
reactant | diisopropylethylamine | 113.6 mmol, 14.6 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | ethyl 6-chloro-4-(methylamino)nicotinate | 4.7 g | ClC1=NC=C(C(=O)OCC)C(=C1)NC | C9H11ClN2O2
